US07304081B2
Step 1. Methyl 1-(4-cyanophenyl)cyclopropanecarboxylate
A degassed mixture of methyl 1-(4-chlorophenyl)cyclopropanecarboxylate (4.748 g, 0.02254 mol), zinc cyanide (2.701 g, 0.02254 mol), bis(tri-t-butylphosphine)palladium (705 mg, 0.00135 mol) and zinc (265 mg, 0.00406 mol) powder in anhydrous N-methylpyrrolidinone (50.0 mL, 0.518 mol) was heated at 150° C. for 18 hours. The completion of the reaction is determined by LCMS and TLC. The reaction mixture was cooled to rt, diluted with EtOAc, filtered through a pad of celite and the solid was washed with EtOAc. The filtrate was washed with 2 N NH4OH (100 mL) and brine successively, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by Combiflash with 2-15% EtOAc/hexanes to give the product as a colorless oil (3.434 g, 76% in yield). LC/MS: (M+H)=202.1.

reactant | methyl 1-(4-chlorophenyl)cyclopropanecarboxylate | 0.02254 mol, 4.748 g | ClC1=CC=C(C=C1)C1(CC1)C(=O)OC | C11H11ClO2
reactant | N-methylpyrrolidinone | 0.518 mol, 50.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | zinc cyanide | 0.02254 mol, 2.701 g | [C-]#N.[Zn+2].[C-]#N
catalyst | bis(tri-t-butylphosphine)palladium | 0.00135 mol, 705 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
catalyst | zinc | 0.00406 mol, 265 mg | [Zn] | Zn
product | Methyl 1-(4-cyanophenyl)cyclopropanecarboxylate | 3.434 g, 76% | C(#N)C1=CC=C(C=C1)C1(CC1)C(=O)OC | C12H11NO2
